* LM741 behavioural macromodel - written for multysm core pack (not a vendor model).
* DC gain 2e5, dominant pole about 5 Hz (GBW about 1 MHz), 2 Mohm input,
* 75 ohm output, output swing limited to 1.5 V inside each rail.
.subckt LM741 inp inn out vpos vneg
Rin inp inn 2Meg
Bgm 0 n1 I = 1e-3*max(min(V(inp)-V(inn), 1e-4), -1e-4)
R1 n1 0 200Meg
C1 n1 0 159p
Bout oint 0 V = min(max(V(n1), V(vneg)+1.5), V(vpos)-1.5)
Rout oint out 75
Rq vpos vneg 6k
.ends LM741
